US07166604B2
(b) Preparation of 3-hydroxy-6-methoxy-1,2-benzisoxazole
A solution of carbonyl diimidazole (1.07 g, 6.57 mmol) in anhydrous THF (8 ml) was added to a stirred boiling solution of the hydroxamic acid (602 mg, 3.29 mmol) in THF (6 ml). The resulting solution was heated at reflux for approx. 8–10 hours, then allowed to cool to room temperature and stirred overnight under an argon atmosphere. Thin layer chromatography (tlc) (silica; 1:1 hexane/ethyl acetate) showed minimal starting material and new non polar material. The solution was evaporated on a rotary evaporator to give an orange coloured oil. Water (6 ml) was added, and contents cooled (ice bath) and acidified to pH 2 with concentrated hydrochloric acid. The crude, damp 3-hydroxy-6-methoxy-1,2-benzisoxazole precipitated as a cream orange solid (645 mg).

reactant | carbonyl diimidazole | 6.57 mmol, 1.07 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | Water | 6 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | THF | 6 ml | C1CCOC1 | C4H8O
product | 3-hydroxy-6-methoxy-1,2-benzisoxazole | OC1=NOC2=C1C=CC(=C2)OC | C8H7NO3
